US08802688B2
Step 2. 1-tert-butyl 5-methyl 3-iodo-1H-pyrrolo[2,3-b]pyridine-1,5-dicarboxylate
To a mixture of methyl 3-iodo-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (700 mg, 2.32 mmol) in dichloromethane (10 mL) and tetrahydrofuran (10 mL) was added N,N-diisopropylethylamine (1.21 mL, 6.95 mmol), di-tert-butyldicarbonate (607 mg, 2.78 mmol), and 4-dimethylaminopyridine (28 mg, 23 mmol). The reaction was allowed to stir at room temperature for 16 hours. The reaction was concentrated and purification by flash column chromatography (0-50% ethyl acetate/heptanes) gave the title compound (760 mg, 82%) as a solid. +APCI (M+H) 403.3; 1H NMR (400 MHz, DMSO-d6, δ): 8.93 (d, J=2.0 Hz, 1 H), 8.16 (d, J=2.0 Hz, 1 H), 8.14 (s, 1 H), 3.91 (s, 3 H), 1.59 (s, 9 H).

reactant | methyl 3-iodo-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 2.32 mmol, 700 mg | IC1=CNC2=NC=C(C=C21)C(=O)OC | C9H7IN2O2
reactant | N,N-diisopropylethylamine | 6.95 mmol, 1.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 2.78 mmol, 607 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 23 mmol, 28 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-butyl 5-methyl 3-iodo-1H-pyrrolo[2,3-b]pyridine-1,5-dicarboxylate | 760 mg, 82% | IC1=CN(C2=NC=C(C=C21)C(=O)OC)C(=O)OC(C)(C)C | C14H15IN2O4
